US07687628B2
Step 2: Preparation of 4-amino-1-isobutyl-1H-imidazo(4,5-c)quinoline
1.0 gram of 4-(N-benzylamino)-1-isobutyl-1H-imidazo(4,5-c)quinoline is added to 10 mL of ethanol, followed by the addition of 0.03 gram triethylamine and 0.2 gram of Pearlman's catalyst (20% Pd(OH)2/C). The mixture is stirred at 40° C. under 1 atm hydrogen until completion. The mixture is then filtered through Celite® and the filtrate, containing 4-amino-1-isobutyl-1H-imidazo(4,5-c)quinoline (imiquimod), is concentrated in vacuo.

reactant | 4-(N-benzylamino)-1-isobutyl-1H-imidazo(4,5-c)quinoline | 1.0 gram | C(C1=CC=CC=C1)NC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)C | C21H22N4
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | Pearlman's catalyst | 0.2 gram | [OH-].[OH-].[Pd+2]
solvent | triethylamine | 0.03 gram | C(C)N(CC)CC | C6H15N
product | 4-amino-1-isobutyl-1H-imidazo(4,5-c)quinoline | NC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)C | C14H16N4
